US08871756B2
4-[6-Methyl-4-(4-methylpiperazin-1-yl)quinolin-2-yl]-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide
The title compound was prepared in analogy to Example 5-1 in Scheme 5 by using 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide (prepared in analogy to the one in Example 2-1) and 1-methylpiperazine. MS obsd. (ESI+) [(M+H)+] 437, 1H NMR (400 MHz, CD3OD) δ ppm 7.90 (dd, J=7.83, 1.01 Hz, 1 H), 7.79 (d, J=7.07 Hz, 1 H), 7.60-7.45 (m, 3 H), 7.34 (td, J=7.64, 1.14 Hz, 1 H), 7.28 (dd, J=8.59, 1.77 Hz, 1 H), 6.54 (s, 1 H), 5.11 (s, 2 H), 3.61-3.50 (m, 2 H), 3.37 (s, 2 H), 3.17 (brs, 4 H), 2.80 (brs, 4 H), 2.46 (s, 3 H), 2.39 (s, 3 H).

reactant | 4-(4-chloro-6-methylquinolin-2-yl)-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | ClC1=CC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C19H17ClN2O2S
reactant | 1-methylpiperazine | CN1CCNCC1 | C5H12N2
product | 4-[6-Methyl-4-(4-methylpiperazin-1-yl)quinolin-2-yl]-2,3,4,5-tetrahydro-1,4-benzothiazepine 1,1-dioxide | CC=1C=C2C(=CC(=NC2=CC1)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)N2CCN(CC2)C | C24H28N4O2S
